US07557105B2
Step 1.2: 2-[(2-Propenyloxy)-methyl]-5-nitrobenzenamine
A stirred solution of 2-amino-4-nitrobenzenemethanol (14.3 g, 85 mmol) in dry THF (350 mL) at 0° C. under an argon atmosphere, is treated dropwise over 35 min with a solution of potassium tert-butylate in THF (Fluka; 85 mL of 1.0 M). The mixture is stirred at 0° C. for 15 min and then treated dropwise over 50 min with a solution of allylbromide (7.9 mL, 94 mmol) in dry THF (80 mL) at 0° C. and then stirred at 20° C. for 90 min. The mixture is diluted with ethyl acetate (800 mL). The resulting solution is washed with saturated aqueous ammonium chloride (3×400 mL), dried (MgSO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by column chromatography on silica gel, eluent 50% ethyl acetate in hexane, to give the title compound as a brown oil.

reactant | 2-amino-4-nitrobenzenemethanol | 85 mmol, 14.3 g | NC1=C(C=CC(=C1)[N+](=O)[O-])CO | C7H8N2O3
reactant | potassium tert-butylate | CC(C)(C)[O-].[K+]
reactant | allylbromide | 94 mmol, 7.9 mL | C(C=C)Br | C3H5Br
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 85 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(2-Propenyloxy)-methyl]-5-nitrobenzenamine | C(C=C)OCC1=C(C=C(C=C1)[N+](=O)[O-])N | C10H12N2O3
